US08541576B2
1-[2-hydroxy-5-(4-methylpiperazin-1-yl)phenyl]ethanone
1-(5-bromo-2-hydroxyphenyl)ethanone 1.0 g (4.65 mmol) in THF (10 ml), N-methylpiperazine 0.83 ml (7.45 mmol), LiHMDSA 16.2 ml (16.2 mmol), Pd2(dba)3 68 mg (0.074 mmol) and 2-dicyclohexylphosphino-2′-N,N-dimethylaminobiphenyl 29.3 mg (0.074 mmol) were combined under argon in a capped vial and stirred at 70° C. for 40 minutes. The volatiles were removed in vacuo, the obtained residue was dissolved with water and 1 N HCl (pH=6) and portioned with DCM. The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (DCM gradient to 10% MeOH/DCM) to provide 532 mg (51%) of desired product as a brown solid. LC/MS (254 nm) HPLC method 2 Rt 3.34 min. 1H NMR (401 MHz, DMSO-d6) δ 11.45 (s, 1H), 7.21-7.28 (m, 2H), 6.80-6.93 (m, 1H), 2.98-3.10 (m, 4H), 2.63 (s, 3H), 2.44-2.48 (m, 4H), 2.23 (s, 3H). HRMS (ESI) calcd for C13H18N2O2 [M+H]+ 235.1441 Found 235.1448.

reactant | 1-(5-bromo-2-hydroxyphenyl)ethanone | 4.65 mmol, 1.0 g | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
reactant | N-methylpiperazine | 7.45 mmol, 0.83 ml | CN1CCNCC1 | C5H12N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.074 mmol, 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[2-hydroxy-5-(4-methylpiperazin-1-yl)phenyl]ethanone | 532 mg, 51% | OC1=C(C=C(C=C1)N1CCN(CC1)C)C(C)=O | C13H18N2O2
